US08207205B2
Step 1: Ethyl 3-(3,5-dibromo-4-(4-methoxybenzyloxy)phenyl)-1,2,4-oxadiazole-5-carboxylate (Compound D)
Sodium hydride (100 mg of a 60% suspension in oil, 2.5 mmol) was added to a stirred solution of ethyl 3-(3,5-dibromo-4-hydroxyphenyl)-1,2,4-oxadiazole-5-carboxylate (980 mg, 2.5 mmol) in dry dimethylformamide (5 mL) under nitrogen and the mixture was stirred at room temperature for 15 minutes. 4-Methoxybenzyl chloride (470 mg, 3.0 mmol) was added and the resulting solution was stirred at 50° C. for 20 h. The cooled mixture was treated with water (10 mL) to give a colourless solid that was filtered, washed with water and dried. Crystallization from di-isopropyl ether gave the title compound (840 mg, 65%) as a colourless powder. 1H NMR δ (ppm) (DMSO-d6): 1.41 (3H, t), 3.52 (3H, s), 4.49 (2H, t), 5.06 (2H, s), 7.01 (2H, d), 7.53 (2H, d), 8.30 (2H, s).

reactant | Sodium hydride | [H-].[Na+]
reactant | ethyl 3-(3,5-dibromo-4-hydroxyphenyl)-1,2,4-oxadiazole-5-carboxylate | 2.5 mmol, 980 mg | BrC=1C=C(C=C(C1O)Br)C1=NOC(=N1)C(=O)OCC | C11H8Br2N2O4
reactant | 4-Methoxybenzyl chloride | 3.0 mmol, 470 mg | COC1=CC=C(CCl)C=C1 | C8H9ClO
reactant | water | 10 mL | O | H2O
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | Ethyl 3-(3,5-dibromo-4-(4-methoxybenzyloxy)phenyl)-1,2,4-oxadiazole-5-carboxylate | 840 mg, 65% | BrC=1C=C(C=C(C1OCC1=CC=C(C=C1)OC)Br)C1=NOC(=N1)C(=O)OCC | C19H16Br2N2O5
